US08076486B2
3-(2-Fluoro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid methyl ester
N-iodosuccinimide (400 mg, 1.76 mmol) and p-toluenesulfonic acid monohydrate (670 mg, 3.53 mmol) were added to a solution of 3-(2-fluoro-phenyl)-5-(2-fluoro-phenylamino)-isonicotinic acid methyl ester (480 mg, 1.41 mmol), and stirred overnight at 60° C. The reaction mixture was quenched with Na2S2O3 (1 mL, 10% aqueous solution), diluted with CH2Cl2, and filtered through an Extrelut column. The column was washed with CH2Cl2, and the filtrate was concentrated. The crude product was purified via Biotage eluting with a gradient of 0 to 55% EtOAc in hexanes to afford the desired product (516 mg, 78%). LC-MS (M+H=467, obsd.=467).

reactant | N-iodosuccinimide | 1.76 mmol, 400 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | p-toluenesulfonic acid monohydrate | 3.53 mmol, 670 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-(2-fluoro-phenyl)-5-(2-fluoro-phenylamino)-isonicotinic acid methyl ester | 1.41 mmol, 480 mg | COC(C1=C(C=NC=C1NC1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C19H14F2N2O2
product | 3-(2-Fluoro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid methyl ester | 516 mg, 78% | COC(C1=C(C=NC=C1NC1=C(C=C(C=C1)I)F)C1=C(C=CC=C1)F)=O | C19H13F2IN2O2
